US07732618B2
b.) (2-Amino-4-tert-butoxycarbonylamino-phenylamino)-acetic acid tert-butyl ester.
(4-tert-Butoxycarbonylamino-2-nitro-phenylamino)-acetic acid tert-butyl ester (10.8 g, 29.4 mmol) was dissolved in MeOH (70 mL) and purged with N2. Palladium on activated carbon (2.2 g, 10% by weight) was added, and the reaction mixture was charged with a balloon of H2. The reaction mixture was stirred for 3 h at room temperature, and then filtered through a pad of celite. The celite was washed with MeOH, and the filtrate was concentrated to afford 2.1 g (22%—two steps) of the sub-title compound. MS calculated for C17H27N3O4+H: 338, observed: 338.

reactant | (4-tert-Butoxycarbonylamino-2-nitro-phenylamino)-acetic acid tert-butyl ester | 29.4 mmol, 10.8 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C17H25N3O6
solvent | MeOH | 70 mL | CO | CH4O
product | (2-Amino-4-tert-butoxycarbonylamino-phenylamino)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C17H27N3O4
